US08957068B2
Step 2: Preparation of (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol
To a solution of ethyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (7.51 g, 26.5 mmol) in Et2O (200 mL) was added LiBH4 (0.865 g, 39.7 mmol), followed by drop wise addition of methanol (1.611 ml, 39.7 mmol). The reaction was refluxed at 40° C. for one hour. The reaction mixture was then cooled to 0° C., and quenched with HCl (1M) until pH=2 for aqueous layer. The phases were separated and the aqueous layer was extracted with DCM (3×200 mL). The organic was then dried (Na2SO4) and concentrated under reduced pressure to give final crude product (6.31 g). LCMS m/z 242.1 (M+H)+, Rt 0.77 min.

reactant | ethyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 26.5 mmol, 7.51 g | ClC=1C(=NC=C(C(=O)OCC)C1)OCC(F)(F)F | C10H9ClF3NO3
reactant | LiBH4 | 39.7 mmol, 0.865 g | [Li+].[BH4-]
reactant | methanol | 39.7 mmol, 1.611 ml | CO | CH4O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol | 6.31 g | ClC=1C=C(C=NC1OCC(F)(F)F)CO | C8H7ClF3NO2
